US08541429B2
Step 4. (1S)-1-methyl-2-morpholin-4-yl-1-phenylethylamine dihydrochloride
Under an argon atmosphere 412 mg of (1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine hydrochloride (1.522 mol) were dissolved in 30 mL of dry THF. A 2 M solution of borane dimethylsulfide (4.4 mL, 5.78 mmol) was added dropwise at 0° C. and the mixture stirred for 10 minutes at 0° C. and then allowed to reach room temperature (gas evolution). After 4 hours the reaction was quenched with methanol (added very carefully) and diluted with methanol when effervescence ceased. THF was removed under vacuo and the methanolic solution was heated at 60° C. for 30 minutes. The solvent was at last completely removed recovering 330 mg of the amine that was subsequently dissolved in 15 mL of dioxane and treated with 1.35 mL of HCl 4 N in dioxane. After 1 hour the solvent was evaporated and the product was triturated with diethylether to yield 350 mg of the expected salt.

reactant | (1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine hydrochloride | 1.522 mol, 412 mg | Cl.C[C@@](C(=O)N1CCOCC1)(C1=CC=CC=C1)N
reactant | borane dimethylsulfide | 5.78 mmol, 4.4 mL | CSC.B
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (1S)-1-methyl-2-morpholin-4-yl-1-phenylethylamine dihydrochloride | 350 mg | Cl.Cl.C[C@@](CN1CCOCC1)(C1=CC=CC=C1)N | InChI=1S/C13H20N2O.2ClH/c1-13(14,12-5-3-2-4-6-12)11-15-7-9-16-10-8-15;;/h2-6H,7-11,14H2,1H3;2*1H/t13-;;/m1../s1
